US05451592
Step 1: Preparation of N-ethyl pyrrole-2-carboxylic acid
Under nitrogen, a suspension of 50 g (0.9 mol) of pulverized KOH in 440 ml of anhydrous DMSO was treated with 20 g (0.18 mol) of pyrrole-2-carboxylic acid (Aldrich); this mixture was cooled in ice and treated with 28 ml (0.36 mol of ethyl iodide. The reaction was allowed to warm to ambient temperatures and stir overnight prior to concentration in vacuo. The residue was dissolved in 125 ml of water and the pH adjusted to 4 with aqueous HCl. The product was extracted with methylene chloride, dried (MgSO4), and concentrated in vacuo to give 19.6 g (78%) of colorless material: mp 77°-78° C.; NMR (DMSO-d6) δ 1.23(t, J=7 Hz, 3H), 4.29(q, J=7 Hz, 2H), 6.06(dd, J=3 and 1 Hz, 1H), 7.10 (t, J=2 Hz, 1H).

reactant | KOH | 0.9 mol, 50 g | [OH-].[K+]
reactant | pyrrole-2-carboxylic acid | 0.18 mol, 20 g | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | ethyl iodide | 0.36 mol | C(C)I | C2H5I
solvent | DMSO | 440 ml | CS(=O)C | C2H6OS
product | N-ethyl pyrrole-2-carboxylic acid | 19.6 g, 78% | C(C)N1C(=CC=C1)C(=O)O | C7H9NO2
